US07737149B2
A solution of methyl 2-chloropyrimidine-5-carboxylate (300 mg, 1.74 mmol) in DCM (4.70 mL) was added to a stirred solution of 2-(methoxymethyl)piperazine (226 mg, 1.74 mmol) and N-ethyl-N-propan-2-ylpropan-2-amine (0.752 mL, 4.35 mmol) in DCM (4.00 mL) at 25° C. under nitrogen. The resulting solution was stirred at room temperature for 6 h. The reaction mixture was concentrated and diluted with MeOH. The resulting mixture was filtered. The filtrate was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford methyl 2-(3-(methoxymethyl)piperazin-1-yl)pyrimidine-5-carboxylate (346 mg, 75%) as a yellow solid. This was used directly with no further purification.

reactant | methyl 2-chloropyrimidine-5-carboxylate | 1.74 mmol, 300 mg | ClC1=NC=C(C=N1)C(=O)OC | C6H5ClN2O2
reactant | 2-(methoxymethyl)piperazine | 1.74 mmol, 226 mg | COCC1NCCNC1 | C6H14N2O
reactant | N-ethyl-N-propan-2-ylpropan-2-amine | 4.35 mmol, 0.752 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 4.70 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.00 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-(methoxymethyl)piperazin-1-yl)pyrimidine-5-carboxylate | 346 mg, 75% | COCC1CN(CCN1)C1=NC=C(C=N1)C(=O)OC | C12H18N4O3
